US05580866
A solution of 2,3,4,5-tetrahydro-1,4-benzothiazepine (1.5 g, prepared as described in the first paragraph of Example 6 above) in acetic anhydride (15 ml) was stirred at room temperature for one hour. The reaction mixture was poured into ice and extracted with dichloromethane. The organic layer was dried and the solvent removed by evaporation to give 4-acetyl-2,3,4,5-tetrahydro-1,4-benzothiazepine [a compound known as a Friedel Crafts catalyst from Example 46 of EP 368063 (Bayer)]. The product was recrystallised from hexane. Yield 1.55 g (m.p. 69°-70° C.).

reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine | S1CCNCC2=C1C=CC=C2 | C9H11NS
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-acetyl-2,3,4,5-tetrahydro-1,4-benzothiazepine | C(C)(=O)N1CCSC2=C(C1)C=CC=C2 | C11H13NOS
